US06140342
cis-4-(3,5-Bis-trifluoromethyl-benzylamino)-6-hydroxy-7-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester
To a stirred suspension of cis-4-amino-6-hydroxy-7-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (387 mg, 1.38 mmol) in dichloromethane (9 mL) was added 3,5-bis(trifluoromethyl)benzaldehyde (225 μL, 1.38 mmol), followed by acetic acid (80 μL, 1.4 mmol). The reaction was stirred at room temperature for 1 h, then sodium triacetoxyborohydride (440 mg, 2.08 mmol) was added. The reaction was stirred at room temperature for 5 h. Water (5 mL) was added, and the mixture was slowly basified to pH 10 with solid potassium carbonate. The mixture was then extracted with ethyl acetate (3×10 mL), the combined organic phases were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give 680 mg crude product. Purification by silica gel chromatography using 0-25% ethyl acetate/hexanes as eluent afforded 458 mg of the title compound (65%).

reactant | cis-4-amino-6-hydroxy-7-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 1.38 mmol, 387 mg | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)OC)O)N)C | C14H20N2O4
reactant | 3,5-bis(trifluoromethyl)benzaldehyde | 1.38 mmol, 225 μL | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | acetic acid | 1.4 mmol, 80 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.08 mmol, 440 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | Water | 5 mL | O | H2O
product | cis-4-(3,5-Bis-trifluoromethyl-benzylamino)-6-hydroxy-7-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 458 mg, 65% | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)OC)O)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C23H24F6N2O4
